US07498346B2
(R)-(3-{4-[(6-Cyano-pyridin-2-ylmethyl)-(4-methoxy-phenyl)-amino]-piperidin-1-yl}-butyl)-carbamic acid tert-butyl ester (0.070 g, 0.14 mmol) was dissolved in a 3:1 mixture of CH2Cl2 and TFA and the mixture was stirred at room temperature for 1 h. The solvent was removed in vacuo and the resulting brown oil dried in vacuo (high vacuum system) for 2 h. The resulting amine, EDCI (0.030 g, 0.0.16 mmol) and HOBT (0.021 g, 0.16 mmol) were combined in DMF (5 mL) to give a pale yellow solution. To this solution was added 4-cyano-2,6-dimethyl-benzoic acid (0.027 g, 0.16 mmol) followed by DIPEA (163 μL, 0.94 mmol) and the resulting mixture was stirred at 25° C. for 16 h. Standard workup according to General Procedure C gave the crude product as a tan oil. Purification by column chromatography on silica gel (Et2O:MeOH:NH4OH, 90:8:2, v/v/v) afforded 4-cyano-N-((R)-3-{4-[(6-cyano-pyridin-2-ylmethyl)-(4-methoxy-phenyl)-amino]-piperidin-1-yl}-butyl)-2,6-dimethyl-benzamide (0.043 g, 55%) as a white foam. 1H NMR (CDCl3) δ 0.90 (m, 1H), 0.98 (d, 3H, J=6.0 Hz), 1.09 (m, 1H), 1.53 (m, 1H), 1.73 (m, 3H), 2.10 (br t, 1H), 2.37 (s, 6H), 2.51 (br t, 1H), 2.69 (m, 1H), 2.81-2.85 (m, 2H), 3.30-3.37 (m, 2H), 3.72 (s, 3H), 3.84 (m, 1H), 3.92 (s, 2H), 6.63 (d, 2H, J=9.0 Hz), 6.75 (d, 2H, J=9.0 Hz), 7.37 (s, 2H), 7.42 (d, 1H, J=6.0 Hz), 7.53 (d, 1H, J=9.0 Hz), 7.69 (t, 1H, J=9.0 Hz), 8.48 (br s, 1H). ES-MS m/z 551 (M+H), 573 (M+Na). Anal. Calcd. for C33H38N6O2.0.1 CH2Cl2: C, 71.10; H, 6.89; N, 15.03. Found: C, 71.17; H, 7.01; N, 15.00.

reactant | (R)-(3-{4-[(6-Cyano-pyridin-2-ylmethyl)-(4-methoxy-phenyl)-amino]-piperidin-1-yl}-butyl)-carbamic acid tert-butyl ester | 0.14 mmol, 0.070 g | C(C)(C)(C)OC(NCC[C@@H](C)N1CCC(CC1)N(C1=CC=C(C=C1)OC)CC1=NC(=CC=C1)C#N)=O | C28H39N5O3
reactant | EDCI | 0.030 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBT | 0.16 mmol, 0.021 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 4-cyano-2,6-dimethyl-benzoic acid | 0.16 mmol, 0.027 g | C(#N)C1=CC(=C(C(=O)O)C(=C1)C)C | C10H9NO2
reactant | DIPEA | 0.94 mmol, 163 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 4-cyano-N-((R)-3-{4-[(6-cyano-pyridin-2-ylmethyl)-(4-methoxy-phenyl)-amino]-piperidin-1-yl}-butyl)-2,6-dimethyl-benzamide | 0.043 g, 55% | C(#N)C1=CC(=C(C(=O)NCC[C@@H](C)N2CCC(CC2)N(C2=CC=C(C=C2)OC)CC2=NC(=CC=C2)C#N)C(=C1)C)C | C33H38N6O2
